US04203988
A. 2-(2-Dimethylaminoethylamino)-6-methoxy pyridine
A solution of 2-(2-dimethylaminoethylamino)-6-chloropyridine (10.0 g, 0.05 mole) in dimethylformamide (50 ml) containing sodium methoxide (3.5 gm, 0.065 mole) is heated at 110°-120° for two hours. The solution is cooled and the sodium chloride filtered. After removing the solvent in vacuo, the residue is dissolved in dilute hydrochloric acid (10%), washed with methylene chloride, made alkaline with sodium carbonate and the product is extracted into methylene chloride. After drying this solution over anhydrous sodium sulfate and filtering through charcoal, the solvent is removed under vacuum to give the oily product (7.9 g). This is used without further purification in the succeeding step.

reactant | 2-(2-dimethylaminoethylamino)-6-chloropyridine | 0.05 mole, 10.0 g | CN(CCNC1=NC(=CC=C1)Cl)C | C9H14ClN3
reactant | sodium methoxide | 0.065 mole, 3.5 gm | C[O-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(2-Dimethylaminoethylamino)-6-methoxy pyridine | 7.9 g | CN(CCNC1=NC(=CC=C1)OC)C | C10H17N3O
